US06046232
Synthesis of α-(3-Ethoxy-4-hexyloxyphenyl)-N-isopropylnitrone
The title compound was prepared according to the procedure described in Example 28 using 3-ethoxy-4-hydroxybenzaldehyde, 1-iodohexane and N-isopropylhydroxylamine. The title compound was isolated in 47.1 % overall yield as a solid, m.p. 69.0° C.

reactant | 3-ethoxy-4-hydroxybenzaldehyde | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | 1-iodohexane | ICCCCCC | C6H13I
reactant | N-isopropylhydroxylamine | C(C)(C)NO | C3H9NO
product | α-(3-Ethoxy-4-hexyloxyphenyl)-N-isopropylnitrone | C(C)OC=1C=C(C=CC1OCCCCCC)C=[N+]([O-])C(C)C | C18H29NO3
